US08865704B2
1-Methyl-3-[trans-4-(morpholine-4-carbonyl)-cyclohexylmethyl]-5-trifluoromethyl-1,3-dihydro-benzoimidazol-2-one
trans-4-(3-Methyl-2-oxo-6-trifluoromethyl-2,3-dihydro-benzoimidazol-1-ylmethyl)cyclohexanecarboxylic acid (78 mg, 0.22 mmol), HATU (100 mg, 0.26 mmol), morpholine (23 mg, 0.26 mmol) and triethyl amine (0.04 ml, 0.26 mmol) were dissolved in DMSO and the mixture were shaken overnight. 3 ml of a saturated solution of ammonium chloride and 2 ml of DCM were added and the organic layer was separated and washed with water. The organic solvent was evaporated and the crude was purified by silica column using ethyl acetate as eluent. 25 mg (yield 27%) of the titled compound were isolated.

reactant | trans-4-(3-Methyl-2-oxo-6-trifluoromethyl-2,3-dihydro-benzoimidazol-1-ylmethyl)cyclohexanecarboxylic acid | 0.22 mmol, 78 mg | CN1C(N(C2=C1C=CC(=C2)C(F)(F)F)C[C@@H]2CC[C@H](CC2)C(=O)O)=O | C17H19F3N2O3
reactant | HATU | 0.26 mmol, 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | morpholine | 0.26 mmol, 23 mg | N1CCOCC1 | C4H9NO
reactant | triethyl amine | 0.26 mmol, 0.04 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 1-Methyl-3-[trans-4-(morpholine-4-carbonyl)-cyclohexylmethyl]-5-trifluoromethyl-1,3-dihydro-benzoimidazol-2-one | 25 mg, yield 27% | CN1C(N(C2=C1C=CC(=C2)C(F)(F)F)C[C@@H]2CC[C@H](CC2)C(=O)N2CCOCC2)=O | C21H26F3N3O3
